US05364844
(2S, 4S, 5S)-5-{N-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino}-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-[2(S)-methylbutyl]hexanamide
A mixture of 530 mg (1.16 mmoles) of (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-[2(S)-methylbutyl]hexanamide (prepared as described in Preparation 7) in 10 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 30 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure. Diethyl ether was added to the residue, and the solvent was again removed by distillation under reduced pressure. This operation was repeated in total three times, and then the residue was dried under vacuum for 8 hours. The dried material was suspended in 10 ml of anhydrous tetrahydrofuran, and then 350 mg (1.29 mmoles) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine were added to the resulting suspension. Subsequently, 0.21 ml (1.38 mmoles) of 95% diethyl cyanophosphate (i.e. diethyl cyanophosphate of purity about 95%) and 0.36 ml (2.58 mmoles) of triethylamine were added to the resulting mixture, whilst ice-cooling, and under an atmosphere of nitrogen. The mixture was stirred for 6 hours, after which the solvent was removed by distillation under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (using a 20:1 by volume mixture of methylene chloride and methanol as eluent), to give 650 mg (yield 92%) of the title compound as white crystals, melting at 190°-193° C.

reactant | (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-[2(S)-methylbutyl]hexanamide | 1.16 mmoles, 530 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC[C@H](CC)C)C(C)(C)O)O)CC1CCCCC1 | C25H48N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 1.29 mmoles, 350 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | diethyl cyanophosphate | 1.38 mmoles, 0.21 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 2.58 mmoles, 0.36 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S, 4S, 5S)-5-{N-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino}-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-[2(S)-methylbutyl]hexanamide | 650 mg, yield 92% | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NC[C@H](CC)C)C(C)(C)O)O)CC1CCCCC1 | C31H54N4O6S
